US09085555B2
G. (2S,4R)-4-Azidomethyl-2-[(S)-1-(3-bromo-phenyl)-2-fluoro-ethylcarbamoyl]-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (2S,4R)-4-azidomethyl-4-fluoro-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester (500 mg, 1.32 mmol) in methanol (20 mL), 1M sodium hydroxide (2.64 mL, 2.64 mmol) was added. The solution was stirred for 2 hours at RT then was diluted with water, the methanol was removed under reduced pressure. The aqueous layer was washed with Et2O (2×100 mL). The aqueous layer was acidified until pH 3 with 2N HCl and extracted with EtOAc (2×100 mL), dried with Na2SO4, filtered and concentrated. To the residue (100 mg, 0.34 mmol), (S)-1-(3-bromo-phenyl)-2-fluoro-ethylamine (described in Part C) (83 mg, 0.38 mmol) and HBTU (197 mg, 0.52 mmol) in DMF (5 mL) was added DIPEA (0.12 mL, 0.69 mmol). The reaction mixture was stirred for 16 h at RT then poured into water and extracted with EtOAc. The organic layer was dried with Na2SO4, filtered and concentrated. Purification by flash column chromatography on silica gel (c-hexane/EtOAc 1:1). MS (UPLC/MS): 488 [M+H]+, 532 [M+HCOO]−; tR (HPLC conditions f): 2.32 min.

reactant | (2S,4R)-4-azidomethyl-4-fluoro-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester | 1.32 mmol, 500 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@](C1)(F)CN=[N+]=[N-])C(=O)OCC1=CC=CC=C1 | C18H23FN4O4
reactant | sodium hydroxide | 2.64 mmol, 1M, 2.64 mL | [OH-].[Na+]
reactant | (S)-1-(3-bromo-phenyl)-2-fluoro-ethylamine | 0.38 mmol, 83 mg | BrC=1C=C(C=CC1)[C@@H](CF)N | C8H9BrFN
reactant | HBTU | 0.52 mmol, 197 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.69 mmol, 0.12 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | methanol | 20 mL | CO | CH4O
solvent | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (2S,4R)-4-Azidomethyl-2-[(S)-1-(3-bromo-phenyl)-2-fluoro-ethylcarbamoyl]-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@](C1)(F)CN=[N+]=[N-])C(N[C@H](CF)C1=CC(=CC=C1)Br)=O | C19H24BrF2N5O3
